US03996233
a. 4-Butylamino-6-chloro-2methyl-5- nitropyridine-3-carboxylic acid ethyl ester
139.5 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.5 Mol.) are dissolved in about 500 ml. of methanol. 60 g. of triethylamine are added and the solution is heated at reflux temperature. At this point, 36.5 g. of n-butylamine are added dropwise. The solvent is then removed in vacuo and 500 ml. of benzene are added to the residue. The triethylamine hydrochloride is filtered off and the solvent evaporated. The resulting oil is dissolved in 300 ml. of methanol and yields on cooling 110 g. of 4-butylamino-6-chloro-2-methyl-2-nitropyridine-3-carboxylic acid, ethyl ester (70%), m.p. 33°-35° (methanol).

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.5 Mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])Cl)C | C9H8Cl2N2O4
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 4-butylamino-6-chloro-2-methyl-2-nitropyridine-3-carboxylic acid, ethyl ester | C(CCC)NC1=C(C(NC(=C1)Cl)([N+](=O)[O-])C)C(=O)OCC | C13H20ClN3O4
solvent | methanol | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Butylamino-6-chloro-2methyl-5- nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1NCCCC)[N+](=O)[O-])Cl)C | C13H18ClN3O4
